US04634766
EXAMPLE 10 1,4-Diazaphenothiazine-5-oxide
To 1,4-diaza-10H-phenothiazine (1 g, 5 mmoles) in acetic acid (15 ml) was added 50% hydrogen peroxide (1 ml). The mixture was stirred at 55° for 30 minutes. The mixture was evaporated to a small volume and the title compound crystallized out. The crystals were filtered, washed with acetic acid and air dried to yield 983 mg of the title compound, m.p. 261°-263°.

reactant | 1,4-diaza-10H-phenothiazine | 5 mmoles, 1 g | N1=CC=NC=2SC3=CC=CC=C3NC12 | C10H7N3S
reactant | hydrogen peroxide | 1 ml | OO | H2O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 1,4-Diazaphenothiazine-5-oxide | 983 mg | N1=CC=NC=2S(C3=CC=CC=C3NC12)=O | C10H7N3OS
